US08937071B2
To a solution of 2-(4-bromo-2-fluorophenyl)-N-(2,5-difluorophenyl)acetamide (40 mg, 0.116 mmol), 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (44.8 mg, 0.116 mmol) and Cs2CO3 (114 mg, 0.349 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added PdCl2(dppf) (8.51 mg, 0.012 mmol) in one charge. Then the mixture was stirred at 110° C. in a microwave for 30 min. After LCMS analysis showed the starting material had disappeared, the mixture was filtered. The filtrate was concentrated and evaporated to dryness to give crude product which was dissolved in DCM and washed with H2O and brine. Then the crude product was purified by preparative TLC to give N-(2,5-difluorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (45.0 mg, 0.054 mmol, 46.1% yield). 1H NMR: (400 MHz, CD3OD) δ 7.96 (d, J=2.0 Hz, 1H), 7.88 (d, J=9.6 Hz, 1H), 7.46 (d, J=2.0 Hz, 1H), 7.36-7.44 (m, 5H), 7.18 (m, 1H), 6.91 (d, J=8.6 Hz, 2H), 6.87 (br. s., 1H), 5.37 (s, 2H), 4.15-4.13 (m, 2H), 3.88 (s, 2H), 3.79 (s, 3H), 1.43 (t, J=7.0 Hz, 3H); ES-LCMS: m/z 403.0 (M−120+H).

reactant | 2-(4-bromo-2-fluorophenyl)-N-(2,5-difluorophenyl)acetamide | 0.116 mmol, 40 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=C(C=CC(=C1)F)F)F | C14H9BrF3NO
reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.116 mmol, 44.8 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | Cs2CO3 | 0.349 mmol, 114 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | 0.012 mmol, 8.51 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(2,5-difluorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.054 mmol, 45.0 mg, 46.1% yield | FC1=C(C=C(C=C1)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C29H25F3N2O4
